US07220759B2
By the reaction in the same manner as in Example 1a, using N,N-diethyl-2,3-dimethylbenzamide (5.0136 g) and (R)-4-(2-hydroxymethylpyrrolidin-1-yl)butyronitrile (2.2 g), (R)-3-[3-(2-hydroxymethylpyrrolidin-1-yl)propyl]-2H-isoquinolin-1-one (627.3 mg) was obtained. 1N aqueous HCl solution (2.4 ml) was added thereto in an acetone solvent, and the precipitated crystals were collected by filtration to give (R)-3-[3-(2-hydroxymethylpyrrolidin-1-yl)propyl]-2H-isoquinolin-1-one hydrochloride (555.3 mg).

reactant | N,N-diethyl-2,3-dimethylbenzamide | 5.0136 g | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
reactant | (R)-4-(2-hydroxymethylpyrrolidin-1-yl)butyronitrile | 2.2 g | OC[C@@H]1N(CCC1)CCCC#N | C9H16N2O
product | (R)-3-[3-(2-hydroxymethylpyrrolidin-1-yl)propyl]-2H-isoquinolin-1-one | 627.3 mg | OC[C@@H]1N(CCC1)CCCC=1NC(C2=CC=CC=C2C1)=O | C17H22N2O2
